US09145366B2
Preparation of {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}acetic acid (5):
To a 20 L reactor equipped with a mechanical stirrer, condenser, thermometer and nitrogen inlet was charged methyl {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}-acetate, 4, (440 g, 1.42 mol), tetrahydrofuran (3912 g, 4400 mL) and 1 M NaOH (4400 mL). The mixture was stirred for 2 hours at room temperature after which it was determined by TLC analysis using hexane/ethyl acetate (6:3) as the mobile phase and UV 435 nm to visualize the reaction components that the reaction was complete. The reaction solution was acidified to a pH of 2 with slow addition of 2M HCl (2359 g). The resulting mixture was concentrated under reduced pressure to a volume of about 7.5 L. Ware (2210 g) was added and the solution cooled to ambient temperature and agitated for 18 hours. The solid product was isolated by filtration and washed with water (6 L). the crude product was transferred back into the reactor and triturated with 2215 g o deionized water at 70° C. for 16 hours. The mixture was cooled to ambient temperature, The solid product was isolated by filtration and washed with water (500 mL) and dried under reduced pressure at 70° C. for 20 hours to afford 368 g (87% yield) of the desired product as an off-white solid. Purity by HPLC was 99.3%. 1H NMR (DMSO-d6) δ 12.84 (s, 1H), 12.39 (s, 1H), 9.39 (t, 1H), 8.56 (d, 1H), 7.94 (s, 1H), 7.81 (m, 2H), 7.55 (q, 2H), and 4.02 (d, 2H).

reactant | methyl {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}-acetate | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)NCC(=O)OC)O | C14H13ClN2O3
reactant | tetrahydrofuran | 1.42 mol, 4400 mL, 440 g | O1CCCC1 | C4H8O
reactant | NaOH | 1 M, 4400 mL | [OH-].[Na+]
reactant | HCl | 2M, 2359 g | Cl | ClH
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | {[5-(3-chlorophenyl)-3-hydroxypyridin-2-yl]amino}acetic acid | 368 g, 87% yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)NCC(=O)O)O | C13H11ClN2O3
